Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
bloating
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ with dx of IBS, workup of symptoms included 
EGD, colonoscopy, testing for celiac dz, who presents with 
inability to take solid food since 2 weeks. He has been eating 
broth only, and per his report lost 15 lb over the past 10 days. 
He becomes sick and symptomatic with any type of po intake. His 
symptoms include bloating, distention, and feel of urgency to 
empty bowel. His symptoms are relieved by "burping, farting, and 
bowel movement". He never gets nauseus and never vomited. 
Abdominal pain is diffuse usually but on othertimes "localized 
but moving" to different quadrants. He does not have nighttime 
diarrhea. Symtoms started around ___ years ago when "they changed 
the water supply in ___. His extensive w/u in the past was 
negative per his report
.
In the emergency department, initial vitals unremarkable, Labs 
all within normal range, and pain free.
.
Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea. 
No recent change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias.
. 
 
Past Medical History:
IBS
 
Social History:
___
Family History:
father lactose intolerant, ___ celiac disease 
 
Physical Exam:
On admission
VITAL SIGNS: T 97.3 BP 116/79 HR 56 RR 18 O298%RA
GENERAL: Pleasant, well appearing, and well nurished in NAD
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No 
LAD, No thyromegaly.
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___.
LUNGS: CTAB, good air movement biaterally.
ABDOMEN: NABS. Soft, NT, ND. No HSM
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior 
tibial pulses.
SKIN: No rashes/lesions, ecchymoses. 
 
Pertinent Results:
========
Labs
========

___ 07:05AM BLOOD WBC-9.0 RBC-4.39* Hgb-13.7* Hct-38.4* 
MCV-87 MCH-31.1 MCHC-35.6* RDW-12.8 Plt ___
___ 06:40PM BLOOD WBC-9.4 RBC-5.12 Hgb-15.3 Hct-44.5 MCV-87 
MCH-29.8 MCHC-34.4 RDW-12.8 Plt ___
___ 07:05AM BLOOD Glucose-87 UreaN-6 Creat-0.8 Na-141 K-4.8 
Cl-106 HCO3-29 AnGap-11
___ 06:40PM BLOOD Glucose-106* UreaN-7 Creat-0.9 Na-143 
K-4.7 Cl-104 HCO3-27 AnGap-17
___ 06:40PM BLOOD ALT-32 AST-22 LD(LDH)-151 AlkPhos-58 
Amylase-48 TotBili-0.5
___ 06:40PM BLOOD Lipase-25
.
========
Radiology
========
CT Abdomen/Pelvis
CT OF THE ABDOMEN: The lung bases are clear. The liver, spleen, 
gallbladder,adrenal glands, kidneys, pancreas, and 
intra-abdominal small and large bowel loops are normal. The 
appendix is normal. There is no free air, free fluid,or 
lymphadenopathy. The abdominal aorta is of normal caliber.
CT OF THE PELVIS: The sigmoid colon and rectum are normal. There 
is no
pelvic free fluid or lymphadenopathy.  
There are no bone findings of malignancy.
IMPRESSION: No acute intra-abdominal pathology.
 
Brief Hospital Course:
# Abdominal bloating: Extensive work up as oupatient to rule out 
infectious causes, IBD and Celiac sprue. Physical exam benign.  
Afebrile, no leukocytosis. CT abdomen without abnormality. 
Presentation most consistent with IBS flair so patient was 
discharged with outpatient follow up. Patient was tolerating po 
intake prior to dicharge.
 
Medications on Admission:
none
 
Discharge Medications:
1. Simethicone 60 mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for bloating.
Disp:*30 Tablet(s)* Refills:*6*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Irritable bowel syndrome
Secondary: none

 
Discharge Condition:
stable, afebrile

 
Discharge Instructions:
You presented to the hospital with diarrhea and abdominal pain. 
A CT scan of your abdomen was normal. Blood tests revealed that 
you did not have an infection or any problem in the liver. Your 
presentation was felt to be consistent with an IBS flare and you 
are being discharged with GI follow up. 
.
Simethicone was added to your medicine regimen. Please take all 
other medications as previously prescribed. 
.
Please seek immediate medical attention if you experience chest 
pain, shortness of breath, black/bloody stools, worsening 
abdominal pain, poor oral intake, nausea, vomitting, fevers or 
any change from your baseline health status. 
 
Followup Instructions:
___